US06936612B2
6-Bromo-8-cyclopentyl-5-methyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (0.290 g, 0.597 mmol), tetrakis(triphenylphosphine)palladium (0.083 g, 0.072 mmol) and tributyl-(1-ethoxy-vinyl)-stannane (0.336 g, 0.932 mmol) were dissolved in toluene (4 mL) and slowly brought to reflux for 3 hours. The reaction mixture was purified by silica gel chromatography to give 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one as a yellow solid (0.110 g, 38.6%). 1H NMR δ (400 MHz, DMSO-d6) 8.95 (s, 1H), 8.83 (s, 1H), 8.02 (d, J=2.9 Hz, 1H), 7.86 (d, J=9.0 Hz, 1H), 7.44 (dd, J=3.2, 9.3 Hz, 1H), 5.79 (m, 1H), 4.42 (d, J=2.0 Hz, 1H), 4.01 (d, J=2.0 Hz, 1H), 3.79 (q, J=6.8 Hz, 2H), 3.72 (m, 4H), 3.09 (m, 4H), 2.34 (s, 3H), 2.17 (m, 2H), 1.85 (m, 2H), 1.71 (m, 2H), 1.55 (m, 2H), 1.21 (m, 3H).

reactant | 6-Bromo-8-cyclopentyl-5-methyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.597 mmol, 0.290 g | BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCOCC2)N(C1=O)C1CCCC1)C | C22H25BrN6O2
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 0.932 mmol, 0.336 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.072 mmol, 0.083 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-2-(5-morpholin-4-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.110 g, 38.6% | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCOCC2)C)C(=C)OCC)=O | C26H32N6O3
